US03931202
Quinoline-bromine complex was prepared by adding 3.2 g. (0.02 mole) of bromine in 50 ml. of CCl4 to a solution of 2.6 g. (0.02 mole) of quinoline in 50 ml. of CCl4. A yellow solid separated which was filtered off and air-dried. The yield was 3.5 g. (60%). To a solution of 2.7 g. (0.01 mole) of 3-pyridylmethyl N-(4'-methylthiophenyl)carbamate in 100 ml. of 70% aqueous acetic acid was added, portionwise, 2.7 g. (0.01 mole) of the quinoline-bromine complex. The mixture was stirred at ambient temperature for 15 min. and poured into 100 ml. of water. A negligible amount of solid formed and was removed by filtration. The filtrate was made alkaline with 25% aqueous NaOH, and a white precipitate formed which was filtered off and recrystallized from aqueous ethanol. There was obtained 0.5 g. of recrystallized product, melting at 118° - 121°C., which proved to be a mixture of two components by thin layer chromatography. The filtrate was concentrated to near-dryness, and yielded after oven drying in vacuo 1 g. of a white solid melting at 139° - 143° C. This was a 34% yield of 3-pyridylmethyl N-(4'-methylsulfinylphenyl)-carbamate.

reactant | bromine | 0.02 mole | BrBr | Br2
reactant | CCl4 | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | quinoline | 0.02 mole | N1=CC=CC2=CC=CC=C12 | C9H7N
reactant | 3-pyridylmethyl N-(4'-methylthiophenyl)carbamate | 0.01 mole | CSC1=CC=C(C=C1)NC(OCC=1C=NC=CC1)=O | C14H14N2O2S
reactant | water | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-pyridylmethyl N-(4'-methylsulfinylphenyl)-carbamate | 34% yield | CS(=O)C1=CC=C(C=C1)NC(OCC=1C=NC=CC1)=O | C14H14N2O3S
